US06982335B2
Isopropyl-2-(2,4-dimethoxyphenyl)-4,5-dihydro-thiazole-4-carboxylate is reacted with 50% potassium hydroxide and excess methyl iodide in dichloromethane in the presence of O(9)-allyl-N-9-anthracenylmethylcinchonidium bromide to form isopropyl-2-(2,4-dimethoxyphenyl)-4-methyl-4,5-dihydro-thiazole-4-(S)-carboxylate in enantiomeric excess.

reactant | Isopropyl-2-(2,4-dimethoxyphenyl)-4,5-dihydro-thiazole-4-carboxylate | C(C)(C)OC(=O)C1N=C(SC1)C1=C(C=C(C=C1)OC)OC | C15H19NO4S
reactant | potassium hydroxide | [OH-].[K+]
reactant | methyl iodide | CI | CH3I
solvent | dichloromethane | ClCCl | CH2Cl2
product | isopropyl-2-(2,4-dimethoxyphenyl)-4-methyl-4,5-dihydro-thiazole-4-(S)-carboxylate | C(C)(C)OC(=O)[C@@]1(N=C(SC1)C1=C(C=C(C=C1)OC)OC)C | C16H21NO4S
